US07795267B2
2,2,2-Trichloro-N-(3-pyridinyl)acetamide
To a solution of 3-aminopyridine (1.0 g, 11 mmol) and triethylamine (1.3 g, 13 mmol) in tetrahydrofuran (30 mL) was added at 0° C. trichloroacetyl chloride (1.4 mL, 13 mmol), and the mixture was stirred at 0° C. for 20 minutes. The reaction solution was concentrated, and ethyl acetate was added to the residue. The resulting mixture was washed with water and saturated brine and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was washed with diisopropyl ether and collected by filtration to obtain the title compound (2.3 g, yield 89%) as colorless powder.

reactant | 3-aminopyridine | 11 mmol, 1.0 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 13 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 13 mmol, 1.4 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2,2,2-Trichloro-N-(3-pyridinyl)acetamide | 2.3 g, yield 89% | ClC(C(=O)NC=1C=NC=CC1)(Cl)Cl | C7H5Cl3N2O
